US05538960
(E)-17-(2-Imidazolin-2-yl)hydrazono-5β-androstane-3β,14β-diol (I-bo)
A mixture of 0.60 g of 3β,14β-dihydroxy-5β-androstane-17-one (Lindig C., J. Prakt. Chem., 1983, 325, 587), 1.00 g of 2-hydrazino-2-imidazoline hydrobromide and 1.50 ml of triethylamine in 50 ml of ethanol and 50 mI of water was stirred at reflux for 2 days. After cooling the mixture was added with 1N sodium hydroxide until pH 12.5 was reached. The mixture was evaporated under reduced pressure and the residue was purified by flash-chromatography (SiO2) using chloroform/methanol/28% ammonium hydroxide 88/20/2 as eluant; the fractions containing the title compound were collected and evaporated to dryness. The residue was ground with ethanol/diethyl ether to give 0.43 g of the title compound (I-bo) as a white solid.

reactant | 3β,14β-dihydroxy-5β-androstane-17-one | 0.60 g | O[C@@H]1C[C@H]2CC[C@H]3[C@]4(CCC([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)=O)O | C19H30O3
reactant | 2-hydrazino-2-imidazoline hydrobromide | 1.00 g | Br.N(N)C=1NCCN1
reactant | triethylamine | 1.50 ml | C(C)N(CC)CC | C6H15N
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | (E)-17-(2-Imidazolin-2-yl)hydrazono-5β-androstane-3β,14β-diol | 0.43 g | N1C(=NCC1)N\N=C/1\[C@]2(C)[C@](CC1)([C@@H]1CC[C@@H]3C[C@H](CC[C@]3(C)[C@H]1CC2)O)O | C22H36N4O2
